US05185352
1-Benzyl-2-(3-dimethylaminopropoxymethyl)-5-octadecyloxy-4(1H)-pyridone dihydrochloride
7.2 g (15 mMole) 1-Benzyl-2-hydroxymethoxy-5-octadecyloxy-4(1H)-pyridone are dissolved in 110 mL anhydrous dimethylformamide at 70° C. and mixed portionwise with 0.60 g (20 mMole) sodium hydride (80% in paraffin oil). After subsequently stirring for 1.5 hours at 70° to 80° C., a solution of 3.3 g (27.15 mMole) 3-dimethylaminopropyl chloride in 20 mL anhydrous dimethylformamide is added dropwise thereto. The reaction mixture is then stirred for 2 hours at 70° C. Thereafter, the solution is evaporated to dryness under vacuum and the residue is mixed with water and dichloromethane. The organic phase is separated off, dried over anhydrous sodium sulphate and evaporated. The residue is chromatographed on a column of silica gel with dichloromethane/methanol saturated with gaseous ammonia (97:3 v/v), an oily substance being obtained. 1.8 g (3.3 mMole) of this substance are dissolved in a mixture of 30 mL ethyl acetate and 3,5 mL propan-2-ol and mixed with diethyl ether saturated with gaseous hydrogen chloride for salt formation. The precipitated salt is recrystallized from ethyl acetate/propan-2-ol (3:1 v/v), colorless crystals being obtained; m.p. 155°-159° C. The solid material contains about 1/4 mole of water per mole of the said product.

reactant | 1-Benzyl-2-hydroxymethoxy-5-octadecyloxy-4(1H)-pyridone | 15 mMole, 7.2 g | C(C1=CC=CC=C1)N1C(=CC(C(=C1)OCCCCCCCCCCCCCCCCCC)=O)OCO | C31H49NO4
reactant | sodium hydride | 20 mMole, 0.60 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 27.15 mMole, 3.3 g | CN(CCCCl)C | C5H12ClN
reactant | hydrogen chloride | Cl | ClH
reactant | water | about 1/4 mole | O | H2O
reactant | dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | propan-2-ol | 3,5 mL | CC(C)O | C3H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-2-(3-dimethylaminopropoxymethyl)-5-octadecyloxy-4(1H)-pyridone dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C(=CC(C(=C1)OCCCCCCCCCCCCCCCCCC)=O)COCCCN(C)C | InChI=1S/C36H60N2O3.2ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-28-41-36-31-38(30-33-24-20-19-21-25-33)34(29-35(36)39)32-40-27-23-26-37(2)3;;/h19-21,24-25,29,31H,4-18,22-23,26-28,30,32H2,1-3H3;2*1H
